### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Presentable): `PUnit` is locally presentable

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #41183

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Presentable/IsDiscrete.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
...
+
+instance (priority := low) (κ : Cardinal.{w}) [Fact κ.IsRegular]
+    [Subsingleton C] [Nonempty C] :
+    IsCardinalFiltered C κ where
+  nonempty_cocone F _ :=
+    ⟨Cocone.mk (Classical.arbitrary _)
+      { app _ := eqToHom (by subsingleton) }⟩
+
+instance (α : Type*) [Preorder α] [Subsingleton α] : IsDiscrete α where
+  eq_of_hom _ := by subsingleton
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Presentable/IsDiscrete.lean]: This should maybe move to a different file?

**Review by dagurtomas — COMMENTED** [review]
Thanks! 

maintainer merge

File: Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean [hunk 2]
```diff
@@ -54,6 +54,14 @@ lemma hasCardinalLT_arrow_walkingParallelFamily {T : Type u}
 
 namespace IsCardinalFiltered
 
+instance (priority := low) (κ : Cardinal.{w}) [Fact κ.IsRegular]
+    (J : Type*) [Category* J] [Subsingleton J] [Nonempty J] [Quiver.IsThin J] :
+    IsCardinalFiltered J κ where
+  nonempty_cocone F _ :=
+    ⟨Cocone.mk (Classical.arbitrary _)
+      { app _ := eqToHom (by subsingleton)
+        naturality _ _ _ := by subsingleton  }⟩
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean]:
```suggestion
        naturality _ _ _ := by subsingleton }⟩
```

File: Mathlib/CategoryTheory/Presentable/IsDiscrete.lean [hunk 3]
```diff
@@ -0,0 +1,73 @@
...
+    exact Functor.IsEventuallyConstantFrom.isColimitOfIsIso (i₀ := j)
+      (fun _ _ ↦ by dsimp; infer_instance) _⟩⟩⟩
+
+instance (priority := low) (κ : Cardinal.{w}) [Fact κ.IsRegular]
+    [Subsingleton C] [Nonempty C] :
+    IsCardinalLocallyPresentable C κ where
+  has_colimits_of_shape J := ⟨fun F ↦
+    ⟨Cocone.mk (Classical.arbitrary C)
+      { app _ := eqToHom (by subsingleton) },
+      { desc _ := eqToHom (by subsingleton) }⟩ ⟩
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Presentable/IsDiscrete.lean]:
```suggestion
      { desc _ := eqToHom (by subsingleton) }⟩⟩
```

File: Mathlib/CategoryTheory/Presentable/IsDiscrete.lean [hunk 4]
```diff
@@ -0,0 +1,73 @@
...
+      dsimp; infer_instance
+    exact Functor.IsEventuallyConstantFrom.isColimitOfIsIso (i₀ := j)
+      (fun _ _ ↦ by dsimp; infer_instance) _⟩⟩⟩
+
+instance (priority := low) (κ : Cardinal.{w}) [Fact κ.IsRegular]
+    [Subsingleton C] [Nonempty C] :
+    IsCardinalLocallyPresentable C κ where
+  has_colimits_of_shape J := ⟨fun F ↦
+    ⟨Cocone.mk (Classical.arbitrary C)
+      { app _ := eqToHom (by subsingleton) },
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Presentable/IsDiscrete.lean:58]: This isn't a blocker for this particular PR, but the fact that you need to inline this proof here suggests to me that there is a missing theory of `PUnit`-like categories. Indeed, there doesn't even seem to be agreement about how to express that a category is `PUnit`-like: here you use `[IsDiscrete C] [Subsingleton C] [Nonempty C]`, but in `Category/Cat/Terminal.lean` we also see the spelling `[Unique C] [IsDiscrete C]`.

**Review by TwoFX — COMMENTED** [review]
bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
